US05180735
As in Example 2, a mixture of 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-chloromethyl-1,4-cyclohexanediol (1.13 g) and methacryloylisocyanate (800 mg) was stirred for 30 minutes at room temperatures. The reaction mixture was purified by means of a silica gel column chromatography (carrier 50 g, developing solvent:hexane-ethyl acetate=3:1) to afford 4-O-(methacryloylcarbamoyl)-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-chloromethyl-1,4-cyclohexanediol (520 mg, yield 34%) as colorless crystals.

reactant | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-chloromethyl-1,4-cyclohexanediol | 1.13 g | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)CCl | C16H27ClO4
reactant | methacryloylisocyanate | 800 mg | C(C(=C)C)(=O)N=C=O | C5H5NO2
product | 4-O-(methacryloylcarbamoyl)-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-chloromethyl-1,4-cyclohexanediol | 520 mg, yield 34% | C(C(=C)C)(=O)NC(=O)OC1C(C(C(CC1)(O)CCl)C1(C(CC=C(C)C)O1)C)OC | C21H32ClNO6
